US04119710
1-(4'-Amino-3'-chloro-5'-trifluoromethyl-phenyl)-2-tert.butylamino-ethanol hydrochloride by method A
80 gm of 4'-amino-2-tert.butylamino-3'-chloro-5'-trifluoromethyl-acetophenone hydrochloride (decomposition between 223° and 231° C.) were dissolved in 500 ml of methanol, and the solution was cooled to -15° C. 9.5 gm of sodium borohydride were added in small portions over a period of one hour, while stirring and maintaining the temperature between -5° to -15° C. After one hour more of stirring at -15° C., the mixture was acidified with 2N hydrochloric acid, and the methanol was removed in vacuo. The remaining aqueous solution was made alkaline with 2N ammonia and was then extracted with ethyl acetate. The organic layer was washed with water, dried, and 50 ml of 4.5N isopropanolic hydrochloric acid were added. The precipitated hydrochloride of the above-mentioned substance was suction-filtered off and washed with ethyl acetate and ether. M.p. 205°-207° C. (decomp.). By concentration of the filtrate a further amount of the product was obtained.

reactant | 4'-amino-2-tert.butylamino-3'-chloro-5'-trifluoromethyl-acetophenone hydrochloride | 80 gm | Cl.NC1=C(C=C(C=C1C(F)(F)F)C(CNC(C)(C)C)=O)Cl
reactant | sodium borohydride | 9.5 gm | [BH4-].[Na+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | methanol | 500 ml | CO | CH4O
product | 1-(4'-Amino-3'-chloro-5'-trifluoromethyl-phenyl)-2-tert.butylamino-ethanol hydrochloride | Cl.NC1=C(C=C(C=C1C(F)(F)F)C(CNC(C)(C)C)O)Cl | InChI=1S/C13H18ClF3N2O.ClH/c1-12(2,3)19-6-10(20)7-4-8(13(15,16)17)11(18)9(14)5-7;/h4-5,10,19-20H,6,18H2,1-3H3;1H
